US08114868B2
To a solution of methyl 2-((S)-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)-ethyl)-2-oxo-1,3-oxazinan-6-yl)acetate (150 mg, 0.33 mmol), and tetraisopropoxytitanium (189 mg, 0.66 mmol) in THF (20 mL) was added 3.0 M ethylmagnesium bromide (4 mL, 12 mmol) at rt under nitrogen. Then the mixture was stirred for 2 h. The reaction was quenched with aqueous NH4Cl solution, and the mixture was filtered. The filtrate was extracted with EtOAc. The combined organic phase was washed with brine, dried over anhydrous Na2SO4, and concentrated to give the crude product, which was purified by preparative HPLC to give (S)-3-(S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-((1-hydroxycyclopropyl)methyl)-1,3-oxazinan-2-one (2.51 mg, 2%). 1H NMR (CDCl3): 0.03 (m, 1H), 0.18 (m, 1H), 0.49 (m, 1H), 0.60 (m, 1H), 1.43 (m, 3H), 2.08 (s, 2H), 2.26 (m, 1H), 2.37 (m, 2H), 2.88 (m, 1H), 5.53 (m, 1H), 6.66 (d, 2H), 6.97 (t, 2H), 7.16 (m, 2H), 7.26 (m, 2H).

reactant | methyl 2-((S)-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)-ethyl)-2-oxo-1,3-oxazinan-6-yl)acetate | 0.33 mmol, 150 mg | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)CC(=O)OC | C27H27FN2O5
reactant | ethylmagnesium bromide | 12 mmol, 3.0 M, 4 mL | C(C)[Mg]Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | tetraisopropoxytitanium | 0.66 mmol, 189 mg | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 6-(4-fluorophenyl)-6-((1-hydroxycyclopropyl)methyl)-1,3-oxazinan-2-one | 2.51 mg, 2% | FC1=CC=C(C=C1)C1(CCNC(O1)=O)CC1(CC1)O | C14H16FNO3
